US07049444B2
3-Hexyl-6-methyl-6-(2-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
To a solution of 1-(2-nitrophenyl)-1-ethanone hydrazone (Preparation 137, 4.00 g, 22.3 mmol) in dioxan (50 ml) was added manganese (IV) oxide (4.27 g, 49.2 mmol) followed by a saturated ethanolic solution of potassium hydroxide (2.0 ml), and the reaction mixture was stirred at room temperature for 4 h. The suspension was filtered through Celite™ washing with dioxan (ca. 150 ml) to give a deep red solution. 1-Hexyl-1H-pyrrole-2,4-dione (Preparation 56, 4.05 g, 22.4 mmol) was added to the solution and the reaction mixture was stirred at room temperature overnight before heating under reflux for 24 h. The reaction mixture was cooled to room temperature, filtered through Celite™ and concentrated in vacuo a crude dark brown oil. This was purified by chromatography in two batches using a Biotage Flash 40M™ cartridge packed with silica gel (90 g) eluting with dichloromethane:hexane (2:1) to afford an 8:1 exo:endo mixture of diastereomers of the title compound as a pale brown oil (880 mg, 12%).

reactant | 1-(2-nitrophenyl)-1-ethanone hydrazone | 22.3 mmol, 4.00 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C)=NN | C8H9N3O2
reactant | potassium hydroxide | 2.0 ml | [OH-].[K+]
reactant | 1-Hexyl-1H-pyrrole-2,4-dione | 22.4 mmol, 4.05 g | C(CCCCC)N1C(CC(C1)=O)=O | C10H17NO2
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
catalyst | manganese (IV) oxide | 49.2 mmol, 4.27 g | [O-2].[Mn+4].[O-2]
product | 3-Hexyl-6-methyl-6-(2-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 880 mg, 12% | C(CCCCC)N1C(C2C(C2C1=O)(C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C18H22N2O4
